US04921855
To a solution of 1-(N-t-butoxycarbonyl-N-methylamino)2-hydroxy-5-methylhexane (2.45 g) and triethylamine (3.03 g) in dimethyl sulfoxide (20 ml) was added sulfur trioxide pyridine complex (4.77 g) under ice-bath cooling. After the mixture was stirred at ambient temperature overnight, the reaction mixture was poured into ice-water (100 ml). The mixture was extracted with diethyl ether (100 ml×2). The extract was washed with water, dried over magnesium sulfate, and concentrated under reduced pressure. The residue was purified with silica gel column chromatography (20% ethyl acetate in n-hexane as eluent) to give 1-(N-t-butoxycarbonyl-N-methylamino)-2-oxo-5-methylhexane (2.15 g).

reactant | 1-(N-t-butoxycarbonyl-N-methylamino)2-hydroxy-5-methylhexane | 2.45 g | C(C)(C)(C)OC(=O)N(C)CC(CCC(C)C)O | C13H27NO3
reactant | triethylamine | 3.03 g | C(C)N(CC)CC | C6H15N
solvent | dimethyl sulfoxide | 20 ml | CS(=O)C | C2H6OS
product | 1-(N-t-butoxycarbonyl-N-methylamino)-2-oxo-5-methylhexane | 2.15 g | C(C)(C)(C)OC(=O)N(C)CC(CCC(C)C)=O | C13H25NO3
